US09023858B2
2-(ethylsulfanyl)-8-methoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one
To a mixture of 2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione (40 mg) and (trifluoromethyl)benzene (10 ml) was added trimethyloxonium tetrafluoroborate (22 mg) at room temperature, and the reaction mixture was heated under reflux for 3 hr, allowed to be cooled to room temperature, and diluted with ethyl acetate. The reaction mixture was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and recrystallized from a mixed solvent of ethyl acetate/hexane to give the title compound (16 mg).

reactant | 2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione | 40 mg | C(C)SC=1N(C(C2=C(N1)C(NC=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C17H14F3N3O3S
reactant | (trifluoromethyl)benzene | 10 ml | FC(F)(F)C1=CC=CC=C1 | C7H5F3
reactant | trimethyloxonium tetrafluoroborate | 22 mg | F[B-](F)(F)F.C[O+](C)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(ethylsulfanyl)-8-methoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one | 16 mg | C(C)SC=1N(C(C2=C(N1)C(=NC=C2)OC)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H16F3N3O3S
